US07303852B2
Synthesis of an Aqueous Solution of 2-Oxo-2-phenylethylthiacyclopentaniumbromide
The 2-bromoacetophenone of 4.97 g (0.025 moles) was dissolved in nitromethane of 9.5 g. Tetrahydrothiophene of 2.2 g (0.025 moles) was added at room temperature, and was matured as it is for two hours at room temperature. A reaction liquid was hardened by the progression of reactions. Solids were dissolved by adding 70 g of water and 50 g of diethyl ether. A water layer was separated and washed with 50 g of diethyl ether of 50 g so that lipophilic impurities were removed.

reactant | 2-bromoacetophenone | BrCC(=O)C1=CC=CC=C1 | C8H7BrO
reactant | Tetrahydrothiophene | S1CCCC1 | C4H8S
reactant | water | 70 g | O | H2O
reactant | diethyl ether | 50 g | C(C)OCC | C4H10O
solvent | nitromethane | [N+](=O)([O-])C | CH3NO2
product | 2-Oxo-2-phenylethylthiacyclopentaniumbromide | [Br-].O=C1[S+](CCC1)CCC1=CC=CC=C1 | InChI=1S/C12H15OS.BrH/c13-12-7-4-9-14(12)10-8-11-5-2-1-3-6-11;/h1-3,5-6H,4,7-10H2;1H/q+1;/p-1
